US08084449B2
To a solution of N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-methyl-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide (565 mg, 0.774 mmol) in ethanol (1 mL) was added 1N HCl (0.735 mL, 0.735 mmol). The mixture was stirred at RT for 2 h. It was concentrated under vacuum. The residue was re-dissolved in ethanol and stripped down (this was repeated for three times). Then a 1:1 mixture of DCM:hexane (5 mL) was added and concentrated (this was repeated twice). Finally, the white solid that formed was dried under high vacuum for two days to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-methyl-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide hydrochloride as a solid (530 mg, 89%). LC-MS m/z 730 (M+H)+, 0.79 min (ret time).

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-methyl-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide | 0.774 mmol, 565 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)CN2CCNCC2)CC | C42H51N9O3
reactant | HCl | 0.735 mmol, 1N, 0.735 mL | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-methyl-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide hydrochloride | 530 mg, 89% | Cl.C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)CN2CCNCC2)CC | InChI=1S/C42H51N9O3.ClH/c1-4-36-34(39(47-32-14-20-54-21-15-32)35-26-46-51(5-2)40(35)49-36)25-45-42(53)38-11-7-10-37(48-38)41(52)44-24-29-13-12-28(3)33(23-29)31-9-6-8-30(22-31)27-50-18-16-43-17-19-50;/h6-13,22-23,26,32,43H,4-5,14-21,24-25,27H2,1-3H3,(H,44,52)(H,45,53)(H,47,49);1H
